US04379765
8-Chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]-benzazepine
A mixture of 2.2 g (7.2 mmole) of 4-[2-benzoyl-4-chlorophenyl]pyrazole-3-carbonitrile, 2.0 g of Raney nickel, and 150 ml of acetic acid was hydrogenated on a Parr apparatus for 4 hr. The Raney nickel was removed by filtration, and the filtrate diluted with 600 ml of ice water. The acetic acid was neutralized with concentrated ammonium hydroxide and the resulting aqueous solution was extracted with methylene chloride. The methylene chloride solution was washed with water, and was dried with sodium sulfate. Concentration of the methylene chloride solution gave a tan solid. Recrystallization from chloroform/hexane gave a white solid, mp 241°-243°.

reactant | 4-[2-benzoyl-4-chlorophenyl]pyrazole-3-carbonitrile | 7.2 mmole, 2.2 g | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)C=1C(=NNC1)C#N | C17H10ClN3O
catalyst | Raney nickel | 2.0 g | [Ni] | Ni
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-6-phenyl-2H,4H-pyrazolo[3,4-d][2]-benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=CC=CC=C2)=NNC3)C=C1 | C17H12ClN3
